US07432262B2
(R)-1-(but-2-ynyl)-2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-5-methyl-6-(3-methyl-isoquinolin-1-ylmethyl)-5,6-dihydro-1H-imidazo[4,5-d]pyridazine-4,7-dione
0.20 g of (R)-1-(but-2-ynyl)-2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-5-methyl-5,6-dihydro-1H-imidazo[4,5-d]pyridazine-4,7-dione and 0.10 g potassium carbonate are placed in 2 ml of dimethylformamide. Then 0.10 g of 3-methyl-isoquinolin-1-ylmethyl-chloride are added and the mixture is stirred for 5 h at 50° C. After the addition of water the mixture is extracted three times with ethyl acetate, the combined organic phases are dried over sodium sulphate, and the solvent is removed. The residue is purified over silica gel (cyclohexane/ethyl acetate 1:1).

reactant | (R)-1-(but-2-ynyl)-2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-5-methyl-5,6-dihydro-1H-imidazo[4,5-d]pyridazine-4,7-dione | 0.20 g | C(C#CC)N1C(=NC2=C1C(NN(C2=O)C)=O)N2C[C@@H](CCC2)NC(=O)OC(C)(C)C | C20H28N6O4
reactant | potassium carbonate | 0.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methyl-isoquinolin-1-ylmethyl-chloride | 0.10 g | CC=1N=C(C2=CC=CC=C2C1)CCl | C11H10ClN
reactant | water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (R)-1-(but-2-ynyl)-2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-5-methyl-6-(3-methyl-isoquinolin-1-ylmethyl)-5,6-dihydro-1H-imidazo[4,5-d]pyridazine-4,7-dione | C(C#CC)N1C(=NC2=C1C(N(N(C2=O)C)CC2=NC(=CC1=CC=CC=C21)C)=O)N2C[C@@H](CCC2)NC(=O)OC(C)(C)C | C31H37N7O4
